### ISSUE TITLE
`linarith`'s Fourier-Motzkin implementation is subtly wrong

### ISSUE THREAD

**Issue by hrmacbeth** [leanprover-community/mathlib4#2717]
See [Zulip](https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/bug.20in.20linarith).  Here is an example in which `linarith` fails to prove a fact but can successfully prove it when *fewer* hypotheses are around.
```lean
import Mathlib.Tactic.Linarith

example :
  (3 * x4 - x3 - x2 - x1 : ℚ) < 0 →
  x5 - x4 < 0 →
  2 * (x5 - x4) < 0 →
  -x6 + x3 < 0 →
  -x6 + x2 < 0 →
  2 * (x6 - x5) < 0 →
  x8 - x7 < 0 →
  -x8 + x2 < 0 →
  -x8 + x7 - x5 + x1 < 0 →
  x7 - x5 < 0 → -- omit this one and it works
  False := by intros; linarith
```
@digama0 has some code from debugging this which might be helpful.

**Comment by dwrensha** [comment]
For the record, mathlib3 (at commit [ce64cd31](https://github.com/leanprover-community/mathlib/commit/ce64cd319bb6b3e82f31c2d38e79080d377be451)) succeeds on this example.

```lean
import tactic.linarith

example (x1 x2 x3 x4 x5 x6 x7 x8: ℚ) :
  (3 * x4 - x3 - x2 - x1 : ℚ) < 0 →
  x5 - x4 < 0 →
  2 * (x5 - x4) < 0 →
  -x6 + x3 < 0 →
  -x6 + x2 < 0 →
  2 * (x6 - x5) < 0 →
  x8 - x7 < 0 →
  -x8 + x2 < 0 →
  -x8 + x7 - x5 + x1 < 0 →
  x7 - x5 < 0 →
  false :=
begin
  intros;
  linarith
end
```

**Comment by digama0** [comment]
I believe mathlib3 has different variable ordering heuristics, so even though it has the same bug you need different examples to cause it to fail.

**Comment by fpvandoorn** [comment]
This example now works, perhaps after #12014? Please reopen if a new version of this issue appears.
